2116-03-12 11:00:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   Pt put on BiPAP from mdnt to 2am and although given seroquel for
   sedation, could not tolerate. Put back on tent mask and NC and sating
   mid 90's.
   History obtained from Patient
   Allergies:
   History obtained from PatientThorazine (Oral) (Chlorpromazine Hcl)
   Rash;
   Penicillins
   lower extremity
   Last dose of Antibiotics:
   Cefipime - [**2116-3-12**] 12:00 AM
   Vancomycin - [**2116-3-12**] 08:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-3-11**] 10:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt denies pain. Admits to some SOB.  No c/o cough,
   fever
   Flowsheet Data as of  [**2116-3-12**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 71 (63 - 78) bpm
   BP: 108/51(65) {86/25(44) - 126/63(77)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    840 mL
                                                                    679 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    600 mL
                                                                    559 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                  1,950 mL
   Urine:
                                                                  1,570 mL
                                                                  1,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,130 mL
                                                                 -1,271 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 98%
   ABG: 7.31/63/62/30/2
   Ve: 6.1 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: No acute distress, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   particularly with ant auscultation, Wheezes : insp and exp anteriorly,
   Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, No(t) Sedated, Tone:
   Normal
   Labs / Radiology
   263 K/uL
   11.7 g/dL
   125 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.3 mEq/L
   9 mg/dL
   103 mEq/L
   136 mEq/L
   36.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2116-3-11**]  03:36 PM
                             [**2116-3-11**]  03:45 PM
                             [**2116-3-11**]  05:41 PM
                             [**2116-3-12**]  01:29 AM
                             [**2116-3-12**]  05:23 AM
                             [**2116-3-12**]  05:37 AM
   WBC
   6.4
   Hct
   36.0
   Plt
   263
   Cr
   0.7
   TropT
   <0.01
   TCO2
   32
   34
   34
   33
   Glucose
   125
   Other labs: CK / CKMB / Troponin-T:185/6/<0.01, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOXEMIA
   61F w/ pmh COPD, recent hospitalization in [**Month (only) **] for COPD flare,
   presenting with shortness of breath and evidence of pneumonia on CXR.
   .
   #.Dyspnea: Appears to be due to COPD flare, likely precipitated by
   pneumonia.  She was given levofloxacin, nebs, and solumedrol in the
   ED.  During her last admission in [**Month (only) **], he was given an antibiotic
   course of Vancomycin, azithromycin, and ceftazidime. On arrival o/n
   cont on levofloxacin, zosyn, and vancomycin for broad coverage given
   recent hospitalizations and pseudomonas. Also started on solumedrol 125
   Q 6
   -change steroids to prednisone 50 daily
   -Given lack of fever, impressive infiltrate of WBC, will narrow abx to
   levofloxacin
   -F/U blood cultures,
   -obtain sputum cultures.
   - wean O2 as tolerated to keep O2 sat >90%
   -guaifenesin ordered to help pt mobilize secretions
   .
   #. Bipolar: Continue thioridizine, librium and topamax. Seroquel o/n
   did not seem to help for sleep. Will consider psych consult if pt
   agitated today
   .
   #. Hyponatremia: Sodium has ranged between 112-140 since [**2116-1-16**].
   Seems hyponatremic on exam with dry MM and pt is thirsty. Thus, likely
   poor PO intake. Also has risk factors for SIADH in her psych
   medications, pulmonary disease. Urine lytes with Na <10 also c/w poor
   intake.   Overnight, normalized to 140 (14 pt incr in 19 hrs since
   presentation).
   -allow to take normal diet incl fluids today
   -Monitor Na [**Hospital1 **] for now
   - Finish 1L D5 NS at 125 cc/hr this am
   .
   # Smoking- ordered for nicotine patch here given active 2ppd habit
   .
   EMERGENCY CONTACT: [**Name (NI) 8215**] [**Name (NI) 1232**], HCP.  [**Telephone/Fax (1) **], [**Telephone/Fax (3) 8216**]
   ICU Care
   Nutrition: Reg diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2116-3-11**] 04:51 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU- consider PM floor c/o if stable

2116-03-13 07:58:00 Physician Resident Progress Note
Chief Complaint: Dyspnea, hypoxia
   24 Hour Events:
   - did fine all day and was called  out in afternoon but didn't get bed
   until evening.  Hospitalist was relucatant to take patient at night
   time so we decided to keep her to avoid a possible evening bounce-back,
   particularly given her nocturnal agitation.
   Allergies:
   Thorazine (Oral) (Chlorpromazine Hcl)
   Rash;
   Penicillins
   lower extremity
   Last dose of Antibiotics:
   Cefipime - [**2116-3-12**] 12:00 AM
   Vancomycin - [**2116-3-12**] 08:13 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-13**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 70 (56 - 87) bpm
   BP: 107/54(66) {87/17(38) - 126/60(74)} mmHg
   RR: 13 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    932 mL
                                                                     79 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    692 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  2,885 mL
                                                                    420 mL
   Urine:
                                                                  2,885 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,954 mL
                                                                   -341 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   FiO2: 40%
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   263 K/uL
   11.7 g/dL
   141 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.4 mEq/L
   11 mg/dL
   104 mEq/L
   141 mEq/L
   36.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2116-3-11**]  03:36 PM
                             [**2116-3-11**]  03:45 PM
                             [**2116-3-11**]  05:41 PM
                             [**2116-3-12**]  01:29 AM
                             [**2116-3-12**]  05:23 AM
                             [**2116-3-12**]  05:37 AM
                             [**2116-3-12**]  10:08 AM
                             [**2116-3-13**]  05:00 AM
   WBC
   6.4
   Hct
   36.0
   Plt
   263
   Cr
   0.7
   0.7
   0.7
   TropT
   <0.01
   TCO2
   32
   34
   34
   33
   Glucose
   125
   166
   141
   Other labs: CK / CKMB / Troponin-T:185/6/<0.01, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOXEMIA
   61F w/ pmh COPD, recent hospitalization in [**Month (only) **] for COPD flare,
   presenting with shortness of breath and evidence of pneumonia on CXR.
   #.Dyspnea: Appears to be due to COPD flare, likely precipitated by
   pneumonia.  She was given levofloxacin, nebs, and solumedrol in the
   ED.  During her last admission in [**Month (only) **], he was given an antibiotic
   course of Vancomycin, azithromycin, and ceftazidime. On arrival o/n
   cont on levofloxacin, zosyn, and vancomycin for broad coverage given
   recent hospitalizations and pseudomonas. Also started on solumedrol 125
   Q 6
   -change steroids to prednisone 50 daily
   -Given lack of fever, impressive infiltrate of WBC, will narrow abx to
   levofloxacin
   -F/U blood cultures,
   -obtain sputum cultures.
   - wean O2 as tolerated to keep O2 sat >90%
   -guaifenesin ordered to help pt mobilize secretions
   #. Bipolar: Continue thioridizine, librium and topamax. Seroquel o/n
   did not seem to help for sleep. Will consider psych consult if pt
   agitated today
   #. Hyponatremia: Sodium has ranged between 112-140 since [**2116-1-16**].
   Seems hyponatremic on exam with dry MM and pt is thirsty. Thus, likely
   poor PO intake. Also has risk factors for SIADH in her psych
   medications, pulmonary disease. Urine lytes with Na <10 also c/w poor
   intake.   Overnight, normalized to 140 (14 pt incr in 19 hrs since
   presentation).
   -allow to take normal diet incl fluids today
   -Monitor Na [**Hospital1 **] for now
   - Finish 1L D5 NS at 125 cc/hr this am
   # Smoking- ordered for nicotine patch here given active 2ppd habit
    EMERGENCY CONTACT: [**Name (NI) 8215**] [**Name (NI) 1232**], HCP.  [**Telephone/Fax (1) **], [**Telephone/Fax (3) 8216**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2116-3-11**] 04:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: